US07834010B2
Preparation of intermediate N-(1-benzylpiperidin-4-yl)-indazole-3-carboxamide
A stirred solution of 1-H-indazole-3-carboxylic acid (8.11 g, 50.0 mmol) in dry DMF (140 ml) under argon atmosphere was added CDI (8.92 g, 55 mmol) and heated at 60° C. for 2 h. The mixture was cooled to room temperature, dropwise added 4-amino-1-benzylpiperidine (9.51 g, 50.0 mmol) previously dissolved in DMF (20 ml). The mixture was heated at 60° C. for 2 h, cooled to room temperature and the solvent evaporated in vacuo. The residue was added CH2Cl2 (250 ml) and the organic layer washed with H2O (100 ml), 1 N aqueous NaOH (100 ml), H2O (100 ml) and brine (100 ml). The organic layer was dried over Na2SO4, filtered and evaporated in vacuo. The residue was recrystalilized from EtOH to leave the expected product as a white solid (14.23 g, 85.1%).

reactant | 1-H-indazole-3-carboxylic acid | 50.0 mmol, 8.11 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | CDI | 55 mmol, 8.92 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-amino-1-benzylpiperidine | 50.0 mmol, 9.51 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-(1-benzylpiperidin-4-yl)-indazole-3-carboxamide | 14.23 g, 85.1% | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=NNC2=CC=CC=C12 | C20H22N4O
